US06951879B2
According to the method in example 31, 6-(4-Bromo-butoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene and N-allyl-methylamine were converted to yield Allyl-methyl-{4-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-amine as yellowish oil, MS: 434 (MH+).

reactant | 6-(4-Bromo-butoxy)-2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)C(F)(F)F)C)C1 | C20H18BrF3OS
reactant | N-allyl-methylamine | C(C=C)NC | C4H9N
product | Allyl-methyl-{4-[2-methyl-3-(4-trifluoromethyl-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-amine | C(C=C)N(CCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)C(F)(F)F)C)C1)C | C24H26F3NOS
